US05332739
Synthesis of 1,3-dimethyl-6-[4-(3-[4-chlorobenzoyl-oxy]propyl)piperazin-1-yl]-2,4(1H,3H)-pyrimidinedione.hydrochloride (Compound 100)
In 50 ml of dioxane were dissolved 1.45 g of 1,3-dimethyl-6-[4-(3-hydroxypropyl)piperazin-1-yl]-2,4(1H,3H)-pyrimidinedione and 1.5 ml of triethylamine, and 10 ml of a dioxane solution containing 1.05 g of 4-chlorobenzoyl chloride was further added dropwise. The solution was stirred at 50°-60° C. for 2 hours, and the solvent was then distilled off. Afterward, the resultant residue was dissolved in chloroform, washed with water, and then concentrated to dryness. The residue was purified through a silica gel column chromatograph (chloroform/methanol=100/1 to 100/3 in volume ratio), thereby obtaining 1.21 g of the crystals of 1,3-dimethyl-6-[4-(3-[4-chlorobenzoyloxy]propyl)piperazin-1-yl]-2,4(1H,3H)-pyrimidinedione.

reactant | 1,3-dimethyl-6-[4-(3-hydroxypropyl)piperazin-1-yl]-2,4(1H,3H)-pyrimidinedione | 1.45 g | CN1C(N(C(C=C1N1CCN(CC1)CCCO)=O)C)=O | C13H22N4O3
reactant | triethylamine | 1.5 ml | C(C)N(CC)CC | C6H15N
reactant | 4-chlorobenzoyl chloride | 1.05 g | ClC1=CC=C(C(=O)Cl)C=C1 | C7H4Cl2O
solvent | dioxane | 50 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 10 ml | O1CCOCC1 | C4H8O2
product | 1,3-dimethyl-6-[4-(3-[4-chlorobenzoyl-oxy]propyl)piperazin-1-yl]-2,4(1H,3H)-pyrimidinedione.hydrochloride | 1.21 g | Cl.CN1C(N(C(C=C1N1CCN(CC1)CCCOC(C1=CC=C(C=C1)Cl)=O)=O)C)=O | InChI=1S/C20H25ClN4O4.ClH/c1-22-17(14-18(26)23(2)20(22)28)25-11-9-24(10-12-25)8-3-13-29-19(27)15-4-6-16(21)7-5-15;/h4-7,14H,3,8-13H2,1-2H3;1H
